US06921753B2
N-({9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(9H-fluoren-9-ylmethyl)amino]-9H-purin-2-yl}methyl)-N′-[2-(diisopropylamino)ethyl]urea
The title compound was prepared from (2R,3R,4S,5R)-2-{2-(aminomethyl)-6-[(9H-fluoren-9-ylmethyl)amino]-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydro-3,4-furandiol (Preparation 13) and N-[2-(diisopropylamino)ethyl]-1H-imidazole-1-carboxamide (Preparation 27) in a similar procedure to Example 3.

reactant | (2R,3R,4S,5R)-2-{2-(aminomethyl)-6-[(9H-fluoren-9-ylmethyl)amino]-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydro-3,4-furandiol | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CO)NCC1C2=CC=CC=C2C=2C=CC=CC12 | C25H26N6O4
reactant | N-[2-(diisopropylamino)ethyl]-1H-imidazole-1-carboxamide | C(C)(C)N(CCNC(=O)N1C=NC=C1)C(C)C | C12H22N4O
product | N-({9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(9H-fluoren-9-ylmethyl)amino]-9H-purin-2-yl}methyl)-N′-[2-(diisopropylamino)ethyl]urea | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)NCC1C2=CC=CC=C2C=2C=CC=CC12)CNC(=O)NCCN(C(C)C)C(C)C | C34H44N8O5
